US07754737B2
To a stirred mixture of the TFA salt of (R)-tert-butyl 3-((S)-4-amino-1-(3-chlorophenyl)-1-hydroxybutyl)piperidine-1-carboxylate (0.0388 g, 0.078 mmol, 1.0 equiv) in THF (5 mL) and CH2Cl2 (5 mL) at rt were added of DIEA (0.7 mL) and p-nitrophenyl chloroformate (0.0350 g, 0.17 mmol, 2.2 equiv). The mixture was stirred at rt for 3 h. One half of the resulting solution was withdrawn and 33 wt % MeNH2 in EtOH (1.5 mL) was added. The resulting mixture was stirred at rt for 1 h. The solvents were removed in vacuo and the residue was purified by reversed-phase preparative HPLC (Phenomenex® Luna 5μ C18(2) 100 A, 250×21.20 mm, 5 micron, 70%→90% CH3CN/H2O, 0.1% CF3COOH over 8 min and then 90% CH3CN/H2O, 0.1% CF3COOH over 7 min, flow rate 25 mL/min) to give (R)-tert-butyl 3-((S)-4-(methylamino-carbonylamino)-1-(3-chlorophenyl)-1-hydroxybutyl)piperidine-1-carboxylate (0.0043 g). LC-MS (3 min) tR=1.71 min, m/z 442, 440 (M+H+), 340.

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (R)-tert-butyl 3-((S)-4-amino-1-(3-chlorophenyl)-1-hydroxybutyl)piperidine-1-carboxylate | 0.078 mmol, 0.0388 g, 1.0 equiv | NCCC[C@@](O)(C1=CC(=CC=C1)Cl)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C20H31ClN2O3
reactant | DIEA | 0.7 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | p-nitrophenyl chloroformate | 0.17 mmol, 0.0350 g, 2.2 equiv | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (R)-tert-butyl 3-((S)-4-(methylamino-carbonylamino)-1-(3-chlorophenyl)-1-hydroxybutyl)piperidine-1-carboxylate | 0.0043 g | CNC(=O)NCCC[C@@](O)(C1=CC(=CC=C1)Cl)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C22H34ClN3O4
